US04012413
In the manner given in Example 22, a mixture of 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, acetaldehyde and acetic acid in acetonitrile is treated with sodium cyanoborohydride and the resulting boron complex is warmed with aqueous ethylenediamine to give 1-[2-(diethylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C18H16ClN5
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[2-(diethylamino)ethyl]-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C(C)N(CCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)CC | C22H24ClN5
